US07465811B2
[[3-[[Bis[(1,1-dimethylethoxy)carbonyl]amino]methyl]phenyl]thio]acetic acid methyl ester
44 mg (1.1 mmol) of a 60% dispersion of sodium hydride in oil are suspended in 8 ml of dimethylformamide (DMF), and 238 mg (1.1 mmol) of di-t-butyl iminodicarboxylate are added. The reaction mixture is stirred at 60° C. for 30 min and then cooled to room temperature. A solution of 230 mg (1 mmol) of the methyl ester of [3-(chloromethyl)phenylthio]acetic acid in 3 ml of DMF is then added. The reaction medium is stirred at 50° C. for 90 min and then cooled and poured into 30 ml of water. The aqueous phase obtained is extracted with ethyl acetate (twice) and the combined organic phases are dried over sodium sulfate and concentrated under reduced pressure. The crude product is purified by chromatography on silica gel using a toluene/ethyl acetate mixture (95/5; v/v) as the eluent to give 300 mg of the expected compound in the form of a colorless oil (yield=73%).

reactant | sodium hydride | [H-].[Na+]
reactant | di-t-butyl iminodicarboxylate | 1.1 mmol, 238 mg | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | [3-(chloromethyl)phenylthio]acetic acid | ClCC=1C=C(C=CC1)SCC(=O)O | C9H9ClO2S
reactant | water | 30 ml | O | H2O
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | DMF | 3 ml | CN(C=O)C | C3H7NO
product | [[3-[[Bis[(1,1-dimethylethoxy)carbonyl]amino]methyl]phenyl]thio]acetic acid methyl ester | 300 mg | COC(CSC1=CC(=CC=C1)CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C20H29NO6S
